US08017602B2
Step i) tert-Butyl 3-(3-(1,5-dimethyl-1H-pyrazol-4-yl)phenethoxy)propanoate
The subtitled compound (804 mg) was prepared from tert-butyl 3-(3-bromophenethoxy)propanoate [Preparation 3, Step i)] and 1 1,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole using a similar method to that described in Example 18, Step i). MS [M+H-C4H8]+=289 (MultiMode+) 1H NMR (400 MHz, CDCl3) δ 7.54 (s, 1H), 7.33-7.26 (m, 1H), 7.21-7.18 (m, 2H), 7.12 (d, 1H), 3.84 (s, 3H), 3.69 (q, 4H), 2.91 (t, 2H), 2.49 (t, 2H), 2.38 (s, 3H), 1.43 (s, 9H).

reactant | tert-butyl 3-(3-bromophenethoxy)propanoate | BrC=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C15H21BrO3
reactant | 1,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CN1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
product | tert-Butyl 3-(3-(1,5-dimethyl-1H-pyrazol-4-yl)phenethoxy)propanoate | 804 mg | CN1N=CC(=C1C)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C20H28N2O3
